Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][C:2]([H:3])([H:4])[C:5]#[C:8][H:9].[C:6]([H:7])=[C:10]([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-2.11389813372
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15],-1.87641583007
[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([C:8]=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.78324933621
[C:7]([H:8])([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-0.8483534603
[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.88887615567
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3](=[C:4])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.03011330499
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:9],1.78441718846
[O:1][O:2][C:3]([H:4])[H:5]>>[O:1].[O:2]=[C:3]([H:4])[H:5],0.446803809999
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[C:7]([H:8])#[C:9][C:10]([H:11])[H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],2.04124950295
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6],1.41053385569
[H:11].[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])=[C:12]([H:13])[H:14]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.88290851561
[H:1][O:2][C:3]#[C:5][O:6][C:7]([H:8])[H:9].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9],-2.95160942116
[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2],2.06435195053
[C:2]([H:3])[C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1]>>[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],-7.914614680660001
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14],-5.35461387698
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8][O:9][H:10].[H:4],4.00107757355
[H:1][C:2]=[C:3]([H:4])[O:5][O:6][H:7]>>[H:1][C:2]=[C:3]([H:4])[O:5][O:6].[H:7],3.75966964714
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.2807418904
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14].[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])[H:14],-1.4393715687200002
[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-0.20179074204
[C:9]([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:7][H:8]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-6.1735577599
[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-0.934258034029
[O:1]=[C:2]1[C:3]([H:4])/[C:5]1=[C:6](\[H:7])[O:8][H:9]>>[O:1]=[C:2]=[C:3]([H:4])/[C:5]=[C:6](/[H:7])[O:8][H:9],0.0985295896006999
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1].[O:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],3.10494692085
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:7]=[C:8]([H:9])[H:10])[O:11][H:12].[H:6],1.54266249611
[C:4]([H:5])(/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.4169272255
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],1.18624126717
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][O:3][C:4](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:5],1.6043859779799998
